data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5126,5821,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([NH+:20]=[C:21]([CH3:22])[CH3:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[NH:20][C:21]2([CH3:22])[CH3:23],water,298.15,19.764284303761148,-2.1511092146732387
4584,5229,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[c-:15]1[c:16](=[O:17])[o:18][c:19]([C:20]([CH3:21])=[O:22])[n+:23]1[CH3:24]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:19]1([C:20]([CH3:21])=[O:22])[O:18][C:16](=[O:17])[C:15]2([C:13]([NH:12][CH3:11])=[O:14])[N:23]1[CH3:24],water,298.15,31.44753434853785,1.619821833209636
914,988,[CH3:15][CH:16]=[NH+:17][C-:18]([CH3:19])[C:20](=[O:21])[NH:22][CH3:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[CH:16]([CH3:15])[NH:17][C:18]2([CH3:19])[C:20](=[O:21])[NH:22][CH3:23],water,298.15,4.778902085609466,-28.61212668066625
2829,3144,[CH3:18][O:19][C:20](=[O:21])[C:22](=[NH+:23][CH-:24][c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[C:31](=[O:32])[O:33][CH3:34].[F:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]#[C:10][C:11]([Br:12])([Br:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[F:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]2=[C:10]([C:11]([Br:12])([Br:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[CH:24]([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[NH:23][C:22]2([C:20]([O:19][CH3:18])=[O:21])[C:31](=[O:32])[O:33][CH3:34],water,298.15,15.507318293504966,-38.11798777338829
3089,3476,[CH2:1]=[CH2:2].[CH3:3][C:4](=[O:5])[C-:6]([C:7]#[N:8])[N+:9]#[C:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH2:1]1[CH2:2][C:6]([C:4]([CH3:3])=[O:5])([C:7]#[N:8])[N:9]=[C:10]1[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1,water,298.15,15.836090023308287,-36.40399059891165
3101,3491,[CH2:1]=[CH2:2].[N:3]#[C:4][c:5]1[o:6][c:7](=[O:8])[c-:9](-[c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[o+:16]1>>[CH2:1]1[CH2:2][C:9]2([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)[C:7](=[O:8])[O:6][C:5]1([C:4]#[N:3])[O:16]2,water,298.15,9.596233467878587,-35.51987156502308
2575,2856,[CH3:25][NH:26][C:27](=[O:28])[CH:29]=[N+:30]([CH3:31])[CH-:32][C:33](=[O:34])[NH:35][CH3:36].[F:1][C:2]([F:3])([F:4])[C:5](=[C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[CH:32]([C:33](=[O:34])[NH:35][CH3:36])[N:30]([CH3:31])[CH:29]1[C:27]([NH:26][CH3:25])=[O:28],water,298.15,32.929547791340035,0.9457435982044078
2303,2553,[CH3:12][O:13][C:14](=[O:15])[C-:16]([CH3:17])[N+:18]([CH3:19])=[C:20]([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Br:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:16]([C:14]([O:13][CH3:12])=[O:15])([CH3:17])[N:18]([CH3:19])[C:20]2([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,30.41758680141052,-13.100699751263466
3071,3452,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8](=[O:9])[N-:10][O+:11]=[C:12]([CH3:13])[CH3:14]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:10]([C:8]([CH3:7])=[O:9])[O:11][C:12]1([CH3:13])[CH3:14],water,298.15,23.67960984383339,-18.635103313742547
4866,5549,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[N:11]#[C:12][C-:13]([O+:14]=[CH:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[O:14][C:13]2([C:12]#[N:11])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,18.76612560609896,-37.53646250730318
36,42,[CH2-:8][O+:9]=[C:10]([C:11]#[N:12])[C:13]([CH3:14])=[O:15].[CH3:1][C:2]#[C:3][C:4](=[O:5])[O:6][CH3:7]>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[O:6][CH3:7])[CH2:8][O:9][C:10]1([C:11]#[N:12])[C:13]([CH3:14])=[O:15],water,298.15,9.208923690716231,-63.09711675674946
1240,1355,[CH3:17][O:18][C:19](=[O:20])[CH:21]=[O+:22][CH-:23][C:24]#[N:25].[CH3:1][O:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([O:9][CH3:10])([O:11][CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([O:9][CH3:10])([O:11][CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[CH:23]([C:24]#[N:25])[O:22][CH:21]2[C:19]([O:18][CH3:17])=[O:20],water,298.15,6.9153279728634205,-82.75110660847358
